US09278915B2
Intermediate 4: 3-{4-[(3-Benzoylbenzyl)oxy]phenyl}propanoic acid
To a 100 mL RB flask fitted with magnetic stirrer was charged 15 mL of THF, 1.0 mL water, and 1.0 mL methanol. To the stirred solvent mixture was added [4-(3-benzoyl-benzyloxy)-phenyl]-propanoic acid methyl ester (1.5 g, 4.0064 mmol) followed by the addition of sodium hydroxide (0.480 g, 12.02 mmol). The resulting solution was stirred at RT for 15 h. After completion of the reaction (reaction monitored by TLC), RM was diluted with 10 mL of water and washed with 40 mL DCM (50 mL×2). Then the aqueous layer was acidified to pH 6 using conc. HCl and extracted with DCM (75 mL×3). The DCM layer was washed with water (75 mL), dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as white solid (1.4 g, yield: 97.2%): MS (ESI, 120 eV): m/z=361.1 (M+H)+: 1H NMR (300 MHz, CDCl3): δ 12.09 (s, 1H), 7.80 (s, 1H), 7.66-7.73 (m, 5H), 7.56-7.58 (d, 3H), 7.13-7.16 (m, 2H), 6.90-6.93 (d, 2H), 5.18 (s, 2H), 2.72-2.77 (t, 2H), 2.42-2.45 (m, 2H).

reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | methanol | 1.0 mL | CO | CH4O
reactant | [4-(3-benzoyl-benzyloxy)-phenyl]-propanoic acid methyl ester | 4.0064 mmol, 1.5 g | COC(C(C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)C(C1=CC=CC=C1)=O)=O | C24H22O4
reactant | sodium hydroxide | 12.02 mmol, 0.480 g | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
product | 3-{4-[(3-Benzoylbenzyl)oxy]phenyl}propanoic acid | 1.4 g, yield: 97.2% | C(C1=CC=CC=C1)(=O)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C23H20O4
